US08357711B2
2-(Piperidin-3-ylmethyl)pyrimidine
To a solution of tert-butyl 3-(pyrimidin-2-ylmethyl)piperidine-1-carboxylate (Preparation 70, 27.3 g, 98.4 mmol, 1 eq) in diethyl ether (160 mL) and DCM (50 mL) was added dropwise a 2M solution of hydrogen chloride in diethyl ether (246 mL, 492 mmol, 5 eq) while maintaining the internal temperature below 30° C. The reaction mixture was stirred at room temperature for 20 h. The solvent was decanted and fresh diethyl ether (300 mL) added. The solid was collected by filtration and washed with diethyl ether (3×100 mL) then dissolved in water (150 mL). The aqueous layer was washed with DCM (2×150 mL), basified with sodium hydroxide pellets to pH 13-14 and extracted with DCM (5×200 mL). The organic layer was separated, dried over sodium sulphate, filtered and concentrated under reduced pressure to afford title compound (15 g, 84.6 mmol, 86%).

reactant | tert-butyl 3-(pyrimidin-2-ylmethyl)piperidine-1-carboxylate | 98.4 mmol, 27.3 g, 1 eq | N1=C(N=CC=C1)CC1CN(CCC1)C(=O)OC(C)(C)C | C15H23N3O2
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | 160 mL | C(C)OCC | C4H10O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 492 mmol, 246 mL, 5 eq | C(C)OCC | C4H10O
product | 2-(Piperidin-3-ylmethyl)pyrimidine | 84.6 mmol, 15 g, 86% | N1CC(CCC1)CC1=NC=CC=N1 | C10H15N3
